US07375099B2
b) 2-Amino-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(1H-indol-3-yl)-propan-1-one
[2-(3,4-Dihydro-1H-isoquinolin-2-yl)-1-(1H-indol-3-ylmethyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (2.90 g, 6.91 mmol) was dissolved in CH2Cl2 (10 ml). Trifluoroacetic acid (10 ml) was added and the mixture was stirred for 90 minutes at r.t. until analytical HPLC indicated complete consumption of the starting material. The solvent was evaporated, the residue was taken up in ethyl acetate, washed (water), and dried (Na2SO4). After evaporation of the solvent, the title compound, MS: m/e=320.4 (M+H+), (1.73 g, 69%) was obtained by chromatographic purification of the residue (silica gel, MeOH, CH2Cl2).

reactant | [2-(3,4-Dihydro-1H-isoquinolin-2-yl)-1-(1H-indol-3-ylmethyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 6.91 mmol, 2.90 g | C(C)(C)(C)OC(NC(C(=O)N1CC2=CC=CC=C2CC1)CC1=CNC2=CC=CC=C12)=O | C25H29N3O3
reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(1H-indol-3-yl)-propan-1-one | NC(C(=O)N1CC2=CC=CC=C2CC1)CC1=CNC2=CC=CC=C12 | C20H21N3O
